US06635640B2
Pyridinium tribromide (90% (Aldrich), 15.4 g, 43.2 mmol) was added portion-wise over 10 minutes to a suspension of 4-pyridin-2-yl-1H-indole (2.8 g, 14.4 mmol) in 2-methyl-2-propanol (84 mL), ethanol (56 mL) and acetic acid (28 mL). The mixture was stirred at room temperature for 2 hours after which acetic acid (100 mL) was added. Stirring was continued for one hour and then water (0.5 mL) and zinc dust (9.4 g, 144 mmol) were added. Stirring was continued for another hour. Residual zinc dust was filtered and washed with methanol. The filtrate was concentrated and the syrupy residue was stirred in water(300 mL) overnight. The solid that formed was filtered, washed with water to remove zinc and pyridine salts and dried under high vacuum to give 2.8 g (92%) of 4-pyridin-2-yl-1,3-dihydroindol-2-one was obtained.

reactant | Pyridinium tribromide | 43.2 mmol, 15.4 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 4-pyridin-2-yl-1H-indole | 14.4 mmol, 2.8 g | N1=C(C=CC=C1)C1=C2C=CNC2=CC=C1 | C13H10N2
reactant | water | 0.5 mL | O | H2O
solvent | 2-methyl-2-propanol | 84 mL | CC(C)(C)O | C4H10O
solvent | ethanol | 56 mL | C(C)O | C2H6O
solvent | acetic acid | 28 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 144 mmol, 9.4 g | [Zn] | Zn
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-pyridin-2-yl-1,3-dihydroindol-2-one | 2.8 g, 92% | N1=C(C=CC=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
